US09227986B2
In a one neck round bottom flask containing a solution of 3,3′-(perfluorocyclopent-1-ene-1,2-diyl)bis(2-(4-(tert-butyl)phenyl)-6-methoxybenzofuran) (1 g, 1.365 mmol) in anhydrous dichloromethane (Ratio: 1, Volume: 50 ml) at room temperature was added dropwise tribromoborane (1.8 ml, 18.68 mmol). The reaction mixture was stirred at reflux for 2 hours. The TLC after 2 hours showed that all the starting material was consumed. The reaction was quenched with methanol (vigorous reaction). The crude was washed with an aqueous solution of 10% HCl, extracted with DCM, then dried over anhydrous magnesium sulfate. The solid obtained was deposited on silica gel and purified by chromatography column using CombiFlash Rf eluting with pure DCM to obtain the product 3,3′-(perfluorocyclopent-1-ene-1,2-diyl)bis(2-(4-(tert-butyl)phenyl)benzofuran-6-ol) (0.96 g, 1.362 mmol, 100% yield) as fluffy yellow solid. 1H NMR (500 MHz, CDCl3) δ 7.1 (AB, J=8.4 Hz, 8H), 7.06 (m, 2H), 6.73 (d, J=2.1 Hz, 2H), 6.54 (dd, J=8.6, 2.2 Hz, 2H), 4.77 (s, 2H), 1.18 (s, 18H).

reactant | 3,3′-(perfluorocyclopent-1-ene-1,2-diyl)bis(2-(4-(tert-butyl)phenyl)-6-methoxybenzofuran) | 1.365 mmol, 1 g | FC1(C(=C(C(C1(F)F)(F)F)C1=C(OC2=C1C=CC(=C2)OC)C2=CC=C(C=C2)C(C)(C)C)C2=C(OC1=C2C=CC(=C1)OC)C1=CC=C(C=C1)C(C)(C)C)F | C43H38F6O4
reactant | tribromoborane | 18.68 mmol, 1.8 ml | BrB(Br)Br | BBr3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3,3′-(perfluorocyclopent-1-ene-1,2-diyl)bis(2-(4-(tert-butyl)phenyl)benzofuran-6-ol) | 1.362 mmol, 0.96 g, 100% yield | FC1(C(=C(C(C1(F)F)(F)F)C1=C(OC2=C1C=CC(=C2)O)C2=CC=C(C=C2)C(C)(C)C)C2=C(OC1=C2C=CC(=C1)O)C1=CC=C(C=C1)C(C)(C)C)F | C41H34F6O4
